US04746653
A mixture of 1.0 g of methyl 4-aminopicolinate, 1.0 g of α-(dimethylphosphono)-acetic acid and 1.0 g of dicyclohexylcarbodiimide in 10 ml of methylene chloride is stirred at room temperature for 6 hours. After filtration and removal of solvent the residue is chromatographed on silica gel with 5% methanol/methylene chloride as the eluent to afford methyl 4-(α-dimethylphosphonoacetamido)-picolinate as a viscous oil.

reactant | methyl 4-aminopicolinate | 1.0 g | NC1=CC(=NC=C1)C(=O)OC | C7H8N2O2
reactant | α-(dimethylphosphono)-acetic acid | 1.0 g | COP(=O)(OC)CC(=O)O | C4H9O5P
reactant | dicyclohexylcarbodiimide | 1.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-(α-dimethylphosphonoacetamido)-picolinate | COP(=O)(OC)CC(=O)NC1=CC(=NC=C1)C(=O)OC | C11H15N2O6P
